US05134111
(a) Preparation of 4-hydroxy-5-methyl-1-naphthalenecarbaldehyde
101.9 g of 8-methyl-1-naphthol was dissolved in 815 ml of dichloromethane, in which 141.6 ml of titanium tetrachloride was gradually dropped under ice-cooling conditions. Thereafter, 93.7 ml of dichloromethyl methyl ether was gradually dropped under ice-cooling conditions. After agitation for 10 minutes, 200 ml of water was gently dropped under ice-cooling conditions. The reaction solution was extracted with ethyl acetate and the resultant organic phase was washed with water. After drying with anhydrous magnesium sulfate, the solvent was distilled off and the resultant crystals were washed with chloroform to obtain 80 g of the captioned compound as brown crystals.

reactant | 8-methyl-1-naphthol | 101.9 g | CC=1C=CC=C2C=CC=C(C12)O | C11H10O
reactant | dichloromethyl methyl ether | 93.7 ml | COC(Cl)Cl | C2H4Cl2O
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 815 ml | ClCCl | CH2Cl2
solvent | titanium tetrachloride | 141.6 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-hydroxy-5-methyl-1-naphthalenecarbaldehyde | 80 g | OC1=CC=C(C2=CC=CC(=C12)C)C=O | C12H10O2
